2119-09-13 05:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-9-13**] 03:46 AM
   Heparin Sodium (Prophylaxis) - [**2119-9-13**] 03:49 AM
   Diazepam (Valium) - [**2119-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-13**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 80 (77 - 92) bpm
   BP: 149/95(110) {134/82(95) - 165/95(111)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 74.7 kg
             Total In:
                                                                      9 mL
                                                                  1,397 mL
   PO:
             160 mL
   TF:
   IVF:
                                                                      9 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.51///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   11.1 g/dL
   111 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   5 mg/dL
   108 mEq/L
   139 mEq/L
   32.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
   WBC
   4.9
   Hct
   32.3
   Plt
   115
   Cr
   0.5
   Glucose
   111
   Other labs: PT / PTT / INR:11.9/26.7/1.0, ALT / AST:116/300, Alk Phos /
   T Bili:159/0.9, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.3 g/dL, LDH:410 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:0.9
   mg/dL
   Assessment and Plan
   51-M w/ EtOH abuse who presented for EtOH detox, w/ increasingly high
   and more frequent Benzo dosing requiring closer monitoring in the MICU.
   .
   #. EtOH withdrawal - Pt presented for detox from EtOH, has h/o DTs and
   withdrawal seizures. Is currently actively in DTs and likely suffered
   from a withdrawal seizure yesterday. Total Benzo requirements in the
   last 48hours include >250mg PO Valium and 6mg IV Ativan. The pt
   continued to become increasingly agitated on the floor, so was
   transferred to the ICU for closer monitoring.
   - Valium 10-20mg PO/IV Q1hr PRN CIWA
   - consider Ativan gtt if pt continues to require more frequent dosing
   of Valium
   - no Haldol for agitation give seizure yesterday, avoid polypharmacy
   - MVI / thiamine / folate
   - IVF hydration: bolus + maintenance fluids
   - SW consult for EtOH abuse & referral to stabilization units
   - Zofran PRN nausea
   - Nicotine patch
   .
   #. Facial trauma - Pt p/w bruised left eye / ear, but unable to relay
   more information re: trauma. CT-scans showed multiple facial fractures,
   and pt was seen in ED by Plastic Surgery who felt that fractures were
   only operative for cosmetics and that the pt should f/u in 1 week for
   interval exam.
   - holding Morphine, try Tylenol first if pt c/o pain
   - f/u Plastic Surgery 1 week
   .
   #. FEN - Regular diet, IVF hydration, electrolyte repletion
   .
   #. Access - PIV
   .
   #. PPx - SQ Heparin, H2-blocker, bowel regimen PRN
   .
   #. Code - FULL CODE (presumed)
   .
   #. Dispo - MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-13**] 01:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-09-13 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo homeless man, ETOH abuse  who presented to [**9-10**] intoxicated with
   facial trauma.  Has history of DTs and seizures.  ETOH level in ED
   554.  Had seizure on floor two nights ago.  Received 250mg of po valium
   over past 24 hours.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-9-13**] 03:46 AM
   Heparin Sodium (Prophylaxis) - [**2119-9-13**] 03:49 AM
   Diazepam (Valium) - [**2119-9-13**] 08:30 AM
   Other medications:
   folate
   thiamine
   pepcid
   valium qhr
   Changes to medical and family history:
   Homeless since [**2114**],
   h/ marijuana use, but no IVDU.
   FH: NC.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-9-13**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 102 (75 - 102) bpm
   BP: 167/90(109) {134/82(95) - 167/101(112)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 74.7 kg
             Total In:
                                                                      9 mL
                                                                  1,819 mL
   PO:
             229 mL
   TF:
   IVF:
                                                                      9 mL
                                                                  1,590 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                    919 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.51///22/
   Physical Examination
   General Appearance: disheveled
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: bruise over left face
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed, Not tremulous currently
   Labs / Radiology
   11.2 g/dL
   117 K/uL
   98 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   4 mg/dL
   108 mEq/L
   139 mEq/L
   32.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
   WBC
   4.9
   5.2
   Hct
   32.3
   32.5
   Plt
   115
   117
   Cr
   0.5
   0.6
   Glucose
   111
   98
   Other labs: PT / PTT / INR:11.9/26.7/1.0, ALT / AST:114/259, Alk Phos /
   T Bili:159/1.1, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:412 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
   ETOH withdrawl:  Continue benzodiazipines as per CIWA protocol.
   Hypovolemia:  Looks very dry, continue IV maintenance fluid.
   Facial fracture:  No need for surgery as per plastics.
   Pain well controlled.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-13**] 01:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2119-09-14 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BDZ [**Name6 (MD) **]
   Psych RN saw pt yesterday and made suggestion that if not able to take
   valium po, then should switch to IV ativan.  As pt remains very
   altered, made the change.  Received approx 200 mg valium and 12 mg
   lorazepam .  BZs going in q1-2hrs
   Still experiencing what appears to be hallucinations, poor orientatin
   to time, place.  Too altered to take po.  Continuing to need meds IV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-9-13**] 10:00 AM
   Diazepam (Valium) - [**2119-9-13**] 12:00 PM
   Lorazepam (Ativan) - [**2119-9-14**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-14**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 113 (75 - 113) bpm
   BP: 150/100(110) {143/86(99) - 173/116(127)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
             Total In:
                                                                  2,772 mL
                                                                    240 mL
   PO:
                                                                    289 mL
             TF:
   IVF:
                                                                  2,483 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    675 mL
   Urine:
                                                                  1,900 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    872 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   11.9 g/dL
   98 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   4 mg/dL
   108 mEq/L
   139 mEq/L
   35.5 %
   9.8 K/uL
        [image002.jpg]
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   AlkPhos
                                   TotBili
   [1][**2119-9-14**] 04:48AM
                                    105*
                                    168*
   1.2
   [2][**2119-9-13**] 05:09AM
                                    114*
                                    259*
                                    412*
                                    159*
                                     1.1
   [3][**2119-9-12**] 11:16PM
                                    116*
                                    300*
                                    410*
                                    159*
                                     0.9
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
   WBC
   4.9
   5.2
   9.8
   Hct
   32.3
   32.5
   35.5
   Plt
   115
   117
   175
   Cr
   0.5
   0.6
   Glucose
   111
   98
   Other labs: PT / PTT / INR:12.7/26.0/1.1, ALT / AST:114/259, Alk Phos /
   T Bili:159/1.1, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:412 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   51-M w/ EtOH abuse who presented for EtOH detox, w/ increasingly high
   and more frequent Benzo dosing requiring closer monitoring in the MICU.
   #. EtOH withdrawal - Pt presented for detox from EtOH, has h/o DTs and
   withdrawal seizures. Is currently actively in DTs and likely suffered
   from a withdrawal seizure yesterday. Total Benzo requirements in the
   last 48hours include >250mg PO Valium and 6mg IV Ativan. The pt
   continued to become increasingly agitated on the floor, so was
   transferred to the ICU for closer monitoring.
   - Valium 10-20mg PO/IV Q1hr PRN CIWA
   - consider Ativan gtt if pt continues to require more frequent dosing
   of Valium
   - no Haldol for agitation give seizure yesterday, avoid polypharmacy
   - MVI / thiamine / folate
   - IVF hydration: bolus + maintenance fluids
   - SW consult for EtOH abuse & referral to stabilization units
   - Zofran PRN nausea
   - Nicotine patch
   .
   #. Facial trauma - Pt p/w bruised left eye / ear, but unable to relay
   more information re: trauma. CT-scans showed multiple facial fractures,
   and pt was seen in ED by Plastic Surgery who felt that fractures were
   only operative for cosmetics and that the pt should f/u in 1 week for
   interval exam.
   - holding Morphine, try Tylenol first if pt c/o pain
   - f/u Plastic Surgery 1 week
   .
   #. FEN - Regular diet, IVF hydration, electrolyte repletion
   .
   #. Access - PIV
   .
   #. PPx - SQ Heparin, H2-blocker, bowel regimen PRN
   #. Code - FULL CODE (presumed)
   .
   #. Dispo - MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-14**] 12:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);

2119-09-14 11:58:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued requirement for high doses of valium (200mg over 24 hours) -
   changed to IV ativan for longer half life.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2119-9-13**] 12:00 PM
   Famotidine (Pepcid) - [**2119-9-14**] 08:11 AM
   Lorazepam (Ativan) - [**2119-9-14**] 10:50 AM
   Other medications:
   heparin s/q
   nicotine patch
   folate
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-14**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 104 (79 - 120) bpm
   BP: 146/96(107) {140/86(101) - 173/116(123)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
             Total In:
                                                                  2,772 mL
                                                                    631 mL
   PO:
                                                                    289 mL
             TF:
   IVF:
                                                                  2,483 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    675 mL
   Urine:
                                                                  1,900 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    872 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): name
   only, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   175 K/uL
   90 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   2 mg/dL
   105 mEq/L
   139 mEq/L
   35.5 %
   9.8 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
   WBC
   4.9
   5.2
   9.8
   Hct
   32.3
   32.5
   35.5
   Plt
   115
   117
   175
   Cr
   0.5
   0.6
   0.7
   Glucose
   111
   98
   90
   Other labs: PT / PTT / INR:12.7/26.0/1.1, ALT / AST:105/168, Alk Phos /
   T Bili:159/1.2, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.8 g/dL, LDH:412 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   ETOH withdrawl:  Confused, hallucinating, but not tremulous currently.
   Continue ativan as needed.  Risk for seizures
   Facial trauma:
   ICU Care
   Nutrition:
   Comments: unable to eat, continue maintenance fluids.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-9-14**] 12:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-09-15 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No calls overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-9-14**] 08:33 PM
   Heparin Sodium (Prophylaxis) - [**2119-9-14**] 10:00 PM
   Lorazepam (Ativan) - [**2119-9-15**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-15**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 84 (68 - 140) bpm
   BP: 157/95(109) {135/78(96) - 177/116(124)} mmHg
   RR: 17 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
                  Total In:
                                                                  2,150 mL
                  PO:
                  TF:
   IVF:
                                                                  2,150 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                      0 mL
   Urine:
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   11.1 g/dL
   106 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   4 mg/dL
   107 mEq/L
   141 mEq/L
   33.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
                             [**2119-9-15**]  04:42 AM
   WBC
   4.9
   5.2
   9.8
   5.9
   Hct
   32.3
   32.5
   35.5
   33.6
   Plt
   115
   117
   175
   242
   Cr
   0.5
   0.6
   0.7
   0.7
   Glucose
   111
   98
   90
   106
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:81/103, Alk Phos /
   T Bili:144/1.0, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.6 g/dL, LDH:412 IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   51-M w/ EtOH abuse who presented for EtOH detox, w/ increasingly high
   and more frequent Benzo dosing requiring closer monitoring in the MICU.
   #. EtOH withdrawal - Pt presented for detox from EtOH, has h/o DTs and
   withdrawal seizures. Is currently actively in DTs and likely suffered
   from a withdrawal seizure yesterday. Total Benzo requirements in the
   last 48hours include >250mg PO Valium and 6mg IV Ativan. The pt
   continued to become increasingly agitated on the floor, so was
   transferred to the ICU for closer monitoring.
   - Lorazepam 1-2mg IV Q1hr PRN CIWA
   - no Haldol for agitation give seizure yesterday, avoid polypharmacy
   - MVI / thiamine / folate
   - IVF hydration: bolus + maintenance fluids with D51/2NS 100mL/hr
   - SW consult for EtOH abuse & referral to stabilization units
   - Zofran PRN nausea
   - Nicotine patch
   .
   #. Facial trauma - Pt p/w bruised left eye / ear, but unable to relay
   more information re: trauma. CT-scans showed multiple facial fractures,
   and pt was seen in ED by Plastic Surgery who felt that fractures were
   only operative for cosmetics and that the pt should f/u in 1 week for
   interval exam.
   - holding Morphine, try Tylenol first if pt c/o pain
   - f/u Plastic Surgery 1 week
   .
   #. FEN - Regular diet, IVF hydration, electrolyte repletion
   .
   #. Access - PIV
   .
   #. PPx - SQ Heparin, H2-blocker, bowel regimen PRN
   #. Code - FULL CODE (presumed)
   .
   #. Dispo - MICU

2119-09-15 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo with ETOH withdrawl
   24 Hour Events:
   decreasing benzo requirement.  Went 6 hours without benzos.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-9-15**] 06:26 AM
   Famotidine (Pepcid) - [**2119-9-15**] 08:00 AM
   Morphine Sulfate - [**2119-9-15**] 09:00 AM
   Lorazepam (Ativan) - [**2119-9-15**] 10:21 AM
   Other medications:
   ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-15**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 74 (68 - 140) bpm
   BP: 146/96(107) {135/78(96) - 177/116(124)} mmHg
   RR: 15 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
             Total In:
                                                                  2,150 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  2,150 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    450 mL
   Urine:
                                                                  1,075 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: ecchymosis to face
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.1 g/dL
   242 K/uL
   106 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   4 mg/dL
   107 mEq/L
   141 mEq/L
   33.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
                             [**2119-9-15**]  04:42 AM
   WBC
   4.9
   5.2
   9.8
   5.9
   Hct
   32.3
   32.5
   35.5
   33.6
   Plt
   115
   117
   175
   242
   Cr
   0.5
   0.6
   0.7
   0.7
   Glucose
   111
   98
   90
   106
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:81/103, Alk Phos /
   T Bili:144/1.0, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.6 g/dL, LDH:412 IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   ETOH withdrawl:  Decreasing benzo requirements, but still confused,
   delirious.
   Facial Trauma: to f/u with plastics.  Pain control
   F/E/N:  Will try po diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-14**] 12:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 minutes, critically ill

2119-09-16 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Mental status clearing; decreasing BDZ requirement.  12mg yesterday,
   none overnight.
   Restraints removed this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-9-15**] 04:00 PM
   Lorazepam (Ativan) - [**2119-9-15**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2119-9-15**] 10:00 PM
   Famotidine (Pepcid) - [**2119-9-15**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-16**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.5
C (95.9
   HR: 55 (54 - 99) bpm
   BP: 139/80(92) {120/67(80) - 156/102(117)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
             Total In:
                                                                  1,541 mL
                                                                    424 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                    801 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    700 mL
   Urine:
                                                                    920 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    621 mL
                                                                   -276 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen: sleeping but arousable, disheveled
   Head: eccymoses around left orbit
   Chest: CTAB
   CV: rate 60s, reg rhythm
   Neuro: Moving all extremities, difficult to understand, not fully
   oriented to time or place
   Labs / Radiology
   269 K/uL
   11.6 g/dL
   86 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   4 mg/dL
   108 mEq/L
   141 mEq/L
   34.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
                             [**2119-9-15**]  04:42 AM
                             [**2119-9-16**]  04:31 AM
   WBC
   4.9
   5.2
   9.8
   5.9
   5.6
   Hct
   32.3
   32.5
   35.5
   33.6
   34.1
   Plt
   115
   117
   175
   242
   269
   Cr
   0.5
   0.6
   0.7
   0.7
   0.6
   Glucose
   111
   98
   90
   106
   86
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:81/103, Alk Phos /
   T Bili:144/1.0, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:412 IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   51-M w/ EtOH abuse who presented for EtOH detox, and then required
   increasingly high and more frequent Benzo dosing and closer monitoring
   in the MICU.
   #. EtOH withdrawal - Pt presented for detox from EtOH, has h/o DTs and
   withdrawal seizures. During admission, patient was in DTs and likely
   suffered from a withdrawal seizure.
   - Lorazepam 1-2mg IV Q2hr PRN CIWA
 decreasing reqs. Require 12mg over
   last 24 hrs.  Can switch to po valium and change CIWA to q 4hr
   - Has not required Haldol for agitation recently, avoid polypharmacy
   - MVI / thiamine / folate
   - IVF hydration: bolus + maintenance fluids with D51/2NS 100mL/hr
   - SW consult for EtOH abuse & referral to stabilization units.  SW has
   seen pt but given his mental status has not been able to complete a
   full eval
   - Zofran PRN nausea
   - Nicotine patch
   #. Facial trauma - Pt p/w bruised left eye / ear, but unable to relay
   more information re: trauma. CT-scans showed multiple facial fractures,
   and pt was seen in ED by Plastic Surgery who felt that fractures were
   only operative for cosmetics and that the pt should f/u in 1 week for
   interval exam.
   - holding Morphine, try Tylenol first if pt c/o pain
   - f/u Plastic Surgery 1 week
   #. FEN - Regular diet, IVF hydration, electrolyte repletion
   #. Access - PIV
   .
   #. PPx - SQ Heparin, H2-blocker, bowel regimen PRN
   #. Code - FULL CODE (presumed)
   .
   #. Dispo
 MICU.  [**Month (only) 60**] be ready for call out to floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-14**] 12:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-09-16 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo with ETOH withdrawl
   24 Hour Events:
   No benzos overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-9-15**] 04:00 PM
   Lorazepam (Ativan) - [**2119-9-15**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2119-9-15**] 10:00 PM
   Famotidine (Pepcid) - [**2119-9-16**] 08:00 AM
   Other medications:
   folate
   thiamine
   MVI
   pepicid
   Changes to medical and family history: See prior PMhx, SHx, and review
   of systems (no change).
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-16**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.5
C (95.9
   HR: 61 (54 - 76) bpm
   BP: 142/104(111) {120/67(80) - 143/104(111)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 74.7 kg
   Height: 70 Inch
             Total In:
                                                                  1,541 mL
                                                                    749 mL
   PO:
                                                                    740 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    750 mL
   Urine:
                                                                    920 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    621 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Eyes / Conjunctiva: head trauma
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   269 K/uL
   86 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   4 mg/dL
   108 mEq/L
   141 mEq/L
   34.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2119-9-12**]  11:16 PM
                             [**2119-9-13**]  05:09 AM
                             [**2119-9-14**]  04:48 AM
                             [**2119-9-15**]  04:42 AM
                             [**2119-9-16**]  04:31 AM
   WBC
   4.9
   5.2
   9.8
   5.9
   5.6
   Hct
   32.3
   32.5
   35.5
   33.6
   34.1
   Plt
   115
   117
   175
   242
   269
   Cr
   0.5
   0.6
   0.7
   0.7
   0.6
   Glucose
   111
   98
   90
   106
   86
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:81/103, Alk Phos /
   T Bili:144/1.0, Amylase / Lipase:98/57, Differential-Neuts:78.0 %,
   Lymph:18.2 %, Mono:2.3 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:412 IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   ETOH:  CIWA to q4h with valium PO
   MVI, thiamine, folate.
   SW consult.
   Facial Trauma:  stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-9-16**] 09:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes